US07737152B2
2-Chloro-6-(isoquinoline-5-oxy)-pyrazine, CJS 526(A)
Using Method DD with 2,6-dichloropyrazine (250 mg, 1.69 mmol) and 4-hydroxyisoquinoline (270 mg, 1.49 mmol), and purification by column chromatography (AcOEt:cyclohexane, 1:1), the title compound was obtained (263 mg). Yield: 61%. 1H NMR (250 MHz, DMSO-d6) δ 7.72-7.78 (m, 3H, Harom 3+6+7), 8.11 (d, 1H, Harom 5, J=7.8 Hz), 8.53 (d, 1H, Harom 2, J=5.9 Hz), 8.55 (s, 1H, HPz 5), 8.75 (s, 1H, HPz 3), 9.43 (s, 1H, Harom 8).

reactant | 2,6-dichloropyrazine | 1.69 mmol, 250 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 4-hydroxyisoquinoline | 1.49 mmol, 270 mg | OC1=CN=CC2=CC=CC=C12 | C9H7NO
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-Chloro-6-(isoquinoline-5-oxy)-pyrazine | Yield: 61% | ClC1=NC(=CN=C1)OC=1C=2C=CN=CC2C=CC1 | C13H8ClN3O
